US07468457B2
a. Preparation of 1-[4-(4-tert-Butylphenyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]ethanone
In a manner similar to that of Example 2 b, by reacting 1.3 g (3.4 mmol) of 3-acetyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-1-naphthyl 1,1,1-trifluoromethanesulfonate with 600 mg (4.4 mmol) of 4-tert-butylphenylboronic acid, 450 mg (10.8 mmol) of lithium chloride, 4.6 mL (9.2 mmol) of 2 M potassium carbonate solution and 220 mg of tetrakis(triphenylphosphine)palladium. The desired product is obtained in the form of white crystals (m=812 mg; yield=66%; m.p.=134° C.).

reactant | 3-acetyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-1-naphthyl 1,1,1-trifluoromethanesulfonate | 3.4 mmol, 1.3 g | FC(S(=O)(=O)OC1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C(C)=O)(F)F | C17H21F3O4S
reactant | 4-tert-butylphenylboronic acid | 4.4 mmol, 600 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | lithium chloride | 10.8 mmol, 450 mg | [Cl-].[Li+]
reactant | potassium carbonate | 9.2 mmol, 2 M, 4.6 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(4-tert-Butylphenyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl]ethanone | yield=66% | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C(C)=O | C26H34O
